*
R1 N001 OUT 300
V2 N001 0 1.5 AC 1.5
V3 5VDC 0 5
XU1 OUT Vout 5VDC 0 Vout LT1006
C1 OUT 0 1µ
*.op
*.tran 800m
.ac dec 100 1 100k
.lib LTC.lib
.backanno
.end
